US04535089
1.0 g of ethyl 2-[2-(4-chlorophenyl)-5-n-pentyl-4-oxazolyl]acetate, 10 ml of methanol, 3 ml of water and 0.4 g of potassium hydroxide are treated in the same manner as described in Example 8. 0.8 g of 2-[2-(4-chlorophenyl)-5-n-pentyl-4-oxazolyl]acetic acid are thereby obtained. Yield: 87.2%.

reactant | ethyl 2-[2-(4-chlorophenyl)-5-n-pentyl-4-oxazolyl]acetate | 1.0 g | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)CCCCC | C18H22ClNO3
reactant | methanol | 10 ml | CO | CH4O
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
solvent | water | 3 ml | O | H2O
product | 2-[2-(4-chlorophenyl)-5-n-pentyl-4-oxazolyl]acetic acid | 0.8 g, Yield: 87.2% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)O)CCCCC | C16H18ClNO3
